US05298633
4-[1-(4-Phenylbutanoyloxy)tridecyl]2-trimethylsilylfuran
tert-Butyl lithium (a 1.7 M solution in pentane; 0.47 ml, 0.79 mmol) was added dropwise to a solution of 4-(1-hydroxytridecyl)-2-trimethylsilylfuran (256.4 mg, 0.76 mmol), prepared as in Example 38, in tetrahydrofuran (5 ml) at -78 degrees under argon. After 10 minutes, a solution of 4-phenylbutyryl chloride (145 mg, 0.79 mmol) was added. Stirring was continued at room temperature for 2 days and the mixture was quenched with water. Extraction and evaporation of the dried (magnesium sulphate) extracts gave an oil, which was purified by preparative thin-layer chromatography (20×20 cm, 1000 micron silica plate; developed with 10% ethyl ether/hexane) The title ester was obtained as a light yellow oil.

reactant | tert-Butyl lithium | C(C)(C)(C)[Li]
reactant | 4-(1-hydroxytridecyl)-2-trimethylsilylfuran | 0.76 mmol, 256.4 mg | OC(CCCCCCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C20H38O2Si
reactant | 4-phenylbutyryl chloride | 0.79 mmol, 145 mg | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[1-(4-Phenylbutanoyloxy)tridecyl]2-trimethylsilylfuran | C1(=CC=CC=C1)CCCC(=O)OC(CCCCCCCCCCCC)C=1C=C(OC1)[Si](C)(C)C | C30H48O3Si
